data/specific_train_final.csv
"CC(C)(C(CO[N+](=O)[O-])O[O:20])O.[N:10]=O>>CC(C)(C(CO[N+](=O)[O-])O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:4][CH2:5][CH:6]([CH2:8][CH3:9])[O:7].[N:2](=[O:3])[O:1]>>[CH3:4][CH2:5][CH:6]([CH2:8][CH3:9])[O:7].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:12][O:11][O:10][CH:9]([CH2:13][O:14][O:15][N:16]=[O:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8]>>[H:12][O:11][O:10][CH:9]([CH2:13][O:14])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8].[N:16](=[O:17])[O:15] 15,14-14; 15,14-15",Room Temperature,Initiation,homolyze
"O[CH:22]/[CH:21]=[C:20](C(OO)=O)\C.[O:10][O]>>O/[CH:22]=[CH:21]\[C:20](C(OO)=O)([O:10][O])C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,recombine
"[CH2:10]C(O[N+](=O)[O-])Cl.[O:20][O]>>[CH2:10](C(O[N+](=O)[O-])Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:8][CH:7]([CH3:9])[C:6](=[O:10])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:8][CH:7]([CH3:9])[C:6](=[O:10])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH2:3][Cl:4])([CH:5]=[CH2:6])[O:7]>>[CH3:1].[CH2:6]=[CH:5][C:2](=[O:7])[CH2:3][Cl:4] 7-7,2; 2,1-7,2; 2,1-1",Room Temperature,Propagation,retroaddition
"CC(CO)(C(COO)O)[O:21][OH:20].[He]>>[He].CC(CO)(C(COO)O)[O:21].[OH:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"C(C(O)(Cl)Cl)O[O:20].[N:10]=O>>C(C(O)(Cl)Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C(=CC=C1)CO[O:20])C.[N:10]=O>>CC1=C(C(=CC=C1)CO[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)[CH2:10].[O:20][O]>>CC(C)OC(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][O:8][O:7][CH2:6][CH:5][C:3]([CH3:4])([CH:2]=[O:1])[OH:10]>>[H:9][O:8].[CH3:4][C:3]([CH:2]=[O:1])([CH:5]1[CH2:6][O:7]1)[OH:10] 7,8-8;7,8-5,7;5-5,7",Room Temperature,Propagation,retroaddition
"CC(C)C(=O)[O:20][O:21]OO>>CC(C)C(=O)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=C(C=C1)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=CC(=C(C=C1)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)C[O:20][O:21]N=O>>CC(CO)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(CCO[O:20])O.[N+](=O)([O-])[O:10]>>CCC(CCO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:3][C:2](=[O:1])[CH:4]=[O:5].[N+:7](=[O:6])([O-:8])[O:9]>>[H:3][O:9][N+:7](=[O:6])[O-:8].[CH:4](=[O:5])[C:2]=[O:1] 2,3-9,3; 2,3-2; 9-9,3",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C(C)(C)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C)(C)C(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC(C(C)O)O[O:10]>>[H:20][O:10]OC(CCC)C(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:8][CH2:7][CH2:6][CH2:5][C:2](=[O:1])[O:3][O:4].[N+:10](=[O:9])[O-:11]>>[CH3:8][CH2:7][CH2:6][CH2:5][C:2](=[O:1])[O:3][O:4][N+:10](=[O:9])[O-:11] 4-4,10; 10-4,10",Room Temperature,Termination,recombine
"[CH3:8][CH2:7][CH:6]([CH3:9])[CH2:5][CH2:4][O:3][O:2][O:1].[N+:11](=[O:10])[O-:12]>>[CH3:8][CH2:7][CH:6]([CH3:9])[CH2:5][CH2:4][O:3].[N+:11](=[O:10])[O-:12].[O:1][O:2] 3,2-3; 2,3-2",Room Temperature,Initiation,homolyze
"CC(C)C(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(CO[O:20])O.[N:10]=O>>CC(C)C(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)([O:22])OCCO.[OH:10]>>[H:20][OH:10].C[C:21](=[O:22])OCCO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC12C=CC(C(C1(C)O)(OO2)C)[O:21][O:20][O].[N+](=O)[O-]>>CC12C=CC(C(C1(C)O)(OO2)C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CCO)[O:20][O:21]N=O>>CC(C)(CCO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:1][C:2]1=[C:3]([CH:4]=[C:5]([CH:6]=[CH:7]1)[CH2:8][O:9])[CH3:10].[N:11](=[O:12])[O:13]>>[CH3:1][C:2]1=[C:3]([CH:4]=[C:5]([CH:6]=[CH:7]1)[CH2:8][O:9])[CH3:10].[N+:11](=[O:12])[O-:13] 11-13,Room Temperature,Propagation,ha resonance
"CC[C:10]1C=CC2C(C1(OO2)C)O.[O:20][O]>>CC[C:10]1(C=CC2C(C1(OO2)C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C)(CO[O:10])O>>[H:20][O:10]OCC(C)(CC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][O:5][O:4][CH:3]([C:2]=[O:1])[C:7]([CH3:8])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[OH:9]>>[H:6][O:5][O:4][CH:3][C:7]([CH3:8])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[OH:9].[C:2]=[O:1] 2,3-2;2,3-3",Room Temperature,Initiation,homolyze
